US05001250
Octylphenyl N,N-diisobutylcarbamoyl phosphine oxide was prepared by reacting octylphenyl phosphine oxide with N,N-diisobutylchloroacetamide under basic conditions using phase transfer conditions. The octyl phenyl phosphine oxide (357.5 grams) was added over a two hour period to a solution of 308.5 grams of N,N-diisobutylchloroacetamide in 600 ml. of CH2Cl2 and 300 ml. of a 50% NaOH solution containing 3.5 grams of "Adogen 464." A stirring rate of 250 rpm and a temperature of 35° C. to 40° C. was used. The reaction was continued until all the octyl phenyl phosphine oxide was consumed as determined by a GC analysis of the mixture. The reaction mixture was diluted with water. The organic layer was separated, dried over anhydrous MgSO4 and stripped of solvent to give a crude product.

reactant | octylphenyl phosphine oxide | C(CCCCCCC)P(C1=CC=CC=C1)=O | C14H23OP
reactant | N,N-diisobutylchloroacetamide | C(C(C)C)N(C(CCl)=O)CC(C)C | C10H20ClNO
reactant | octyl phenyl phosphine oxide | 357.5 grams | C(CCCCCCC)P(C1=CC=CC=C1)=O | C14H23OP
reactant | N,N-diisobutylchloroacetamide | 308.5 grams | C(C(C)C)N(C(CCl)=O)CC(C)C | C10H20ClNO
reactant | NaOH | [OH-].[Na+]
catalyst | Adogen 464 | CCCCCCCC[N+](C)(CCCCCCCC)CCCCCCCC.[Cl-]
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | Octylphenyl N,N-diisobutylcarbamoyl phosphine oxide | C(CCCCCCC)P(C(N(CC(C)C)CC(C)C)=O)(C1=CC=CC=C1)=O | C23H40NO2P
